US08227431B2
Preparation of 4-amino1-((2R,4R)-3-fluoro-tetrahydro-4-hydroxy-5-(hydroxymethyl)-3,4-dimethylfuran-2-yl)pyrimidin-2(1H)-one
A solution of ((2R,4R)-3-acetoxy-5-(4-benzamido-2-oxopyrimidin-1(2H)-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate (about 0.22 g, 0.42 mmol) in methanolic ammonia (25% w/w 15 ml) was stirred at room temperature for overnight. Completion of the reaction mixture monitored by thin-layer chromatography and methanol was removed under reduced pressure. Water added to the crude and extracted with ethyl acetate and the organic layer was dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 15% methanol in dichloromethane to elude title compound (0.047 g). Yield: 46%; 1H-NMR: 1H NMR (300 MHz, CDCl3): δ 7.40 (dd, 1H, J1=7.5 Hz, J2=7.5 Hz), 7.25-7.17 (bs, 2H), 6.23 (d, 1H, J=23.4 Hz), 5.72 (d, 1H, J=7.5 Hz), 5.53 (s, 1H), 4.79 (t, 1H), 4.11-4.09 (m, 1H), 3.49-3.45 (m, 2H), 1.29-1.19 (m, 6H); ES Mass: [M+1]+ 274 (100%), [M+2]+ 275 (60%); IR cm−: 3459, 2927, 2855, 2274, 1635, 1028, 938, 724, 471.

reactant | ((2R,4R)-3-acetoxy-5-(4-benzamido-2-oxopyrimidin-1(2H)-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | 0.42 mmol, about 0.22 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C(N=C(C=C1)NC(C1=CC=CC=C1)=O)=O | C27H26FN3O7
reactant | methanol | CO | CH4O
solvent | ammonia | 15 ml | N | H3N
product | 4-amino1-((2R,4R)-3-fluoro-tetrahydro-4-hydroxy-5-(hydroxymethyl)-3,4-dimethylfuran-2-yl)pyrimidin-2(1H)-one | Yield: 46% | NC1=NC(N(C=C1)[C@@H]1OC([C@@](C1(C)F)(C)O)CO)=O | C11H16FN3O4
